US06054587
A solution of 2-methyl-3-nitroaniline (1 mmol) in anhydrous diethyl ether was treated with 2-furoyl chloride (1.1 mmol) and pyridine (3.0 mmol) at 25° C. for 12 h. Extraction and chromatography afforded N-(2-furoyl)-2-methyl-3-nitroaniline as a white solid. TLC: Rf =0.41, 50% EtOAc-hexane.

reactant | 2-methyl-3-nitroaniline | 1 mmol | CC1=C(N)C=CC=C1[N+](=O)[O-] | C7H8N2O2
reactant | 2-furoyl chloride | 1.1 mmol | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | pyridine | 3.0 mmol | N1=CC=CC=C1 | C5H5N
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-(2-furoyl)-2-methyl-3-nitroaniline | O1C(=CC=C1)C(=O)NC1=C(C(=CC=C1)[N+](=O)[O-])C | C12H10N2O4
